US05686445
5,11-Dihydro-10H-dibenz[b,e][1,4]diazepine
To a stirred solution of 4.3 g of 5,11-dihydro-10H-dibenz[b,e][1,4]diazepin-11-one in 50 ml of tetrahydrofuran, under nitrogen and cooled to 0° C. is added 4.0 ml of 10N methyl sulfide-borane complex. The ice bath is removed after 30 minutes and the reaction mixture stirred at room temperature for 18 hours. The reaction mixture is cooled in an ice bath and 30 ml of anhydrous methanol added dropwise and evaporated to dryness in vacuo. Another 30 ml of methanol is added and evaporated to a residue. The residue is quenched with 30 ml of 40% sodium hydroxide followed by heating at 110° C. for 45 minutes and cooling to room temperature. The reaction mixture is diluted with 200 ml of water and extracted with methylene chloride (3×100 ml). The combined extracts are washed with 1N HCl, water and 0.5N NaOH. The organic layer is dried and evaporated in vacuo to give 3.2 g of the desired product, m.p. 114°-116° C.

reactant | 5,11-dihydro-10H-dibenz[b,e][1,4]diazepin-11-one | 4.3 g | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5,11-Dihydro-10H-dibenz[b,e][1,4]diazepine | 3.2 g | C1=CC=CC=2NC3=C(NCC21)C=CC=C3 | C13H12N2
